** sch_path: /foss/designs/ihp-sg13g2-ams-chip-template/testbenches/xschem/chip_top_tb_tran.sch
**.subckt chip_top_tb_tran
VDD VDD GND {VDD}
vclk clock GND pulse(0 {IOVDD} 0 100p 100p {0.5/fclk} {1/fclk})
vrst reset_n GND pulse({IOVDD} 0 {2/fclk} 100p 100p {2/fclk} 1 1)
VIO VIO GND {IOVDD}
x1 counter1_value5_inv1_din2 counter1_value4_inv1_din1 counter1_value7_inv1_din4 counter1_value6_inv1_din3 clock reset_n enable
+ inv2_vout2 inv2_vout1 inv2_vin2 inv2_vin1 counter1_value0 counter1_value1 counter1_value2 counter1_value3 GND VIO VDD sram_0_out
+ counter2_value0 counter2_value1 counter2_value2 counter2_value3 counter2_value4 counter2_value5 counter2_value6 counter2_value7 inv1_dout1
+ inv1_dout2 inv1_dout3 inv1_dout4 chip_top
Venable enable GND pulse({IOVDD} 0 {200/fclk} 100p 100p {400/fclk} 1 1)
vsine1 inv2_vin1 GND sin({Vcm} 10m 100k)
vsine2 inv2_vin2 GND sin({Vcm} 10m 400k)
**** begin user architecture code


*.include ../../verification/pex/chip_top_pex.spice
.include ../../macros/counter/netlist/xspice/counter_top.xspice
.param IOVDD=3.3
.param VDD=1.5
.param Vcm=0.75
.param temp=27
.param Cload=10p
.param Rload=1k
.param fclk=50e6
.csparam fclk=fclk
.options klu method=gear reltol=5e-3 abstol=1e-11 gmin=1e-11 rshunt=1e11
.control

set num_threads=32

* save all

* User Constants
let tstart = 0
let tstop = 20u
let tstep = 100n

* Transient Operating Point Analysis
*optran 0 0 0 $&tstep $&tstart 0
op
remzerovec
write chip_top_tb_tran.raw
set appendwrite

* Transient Analysis
tran $&tstep $&tstop $&tstart
write chip_top_tb_tran.raw

* Plotting
plot clock reset_n enable sram_0_vout
plot inv2_vin1 inv2_vout1
plot inv1_dout1 inv1_dout2 inv1_dout3 inv1_dout4
plot counter2_value0 counter2_value1 counter2_value2 counter2_value3 counter2_value4 counter2_value5 counter2_value6 counter2_value7
plot counter1_value4_inv1_din1 counter1_value5_inv1_din2

* Write Data
unset appendwrite
set wr_vecnames
set wr_singlescale
wrdata ../../testbenches/xschem/plot_simulations/data/chip_top_tb_tran.txt
+ v(clock) v(reset_n) v(enable) v(sram_0_vout) v(inv2_vin1) v(inv2_vout1)
+ v(inv1_dout1) v(inv1_dout2) v(inv1_dout3) v(inv1_dout4)
+ v(counter2_value0) v(counter2_value1) v(counter2_value2) v(counter2_value3)
+ v(counter2_value4) v(counter2_value5) v(counter2_value6) v(counter2_value7)
+ v(counter1_value4_inv1_din1) v(counter1_value5_inv1_din2)

*quit
*rusage all
.endc



.lib cornerMOSlv.lib mos_tt
.lib cornerMOShv.lib mos_tt
.lib cornerHBT.lib hbt_typ
.lib cornerRES.lib res_typ
.lib cornerCAP.lib cap_typ
.lib cornerDIO.lib dio_tt



.include /foss/pdks/ihp-sg13g2/libs.ref/sg13g2_io/spice/sg13g2_io.spi


**** end user architecture code
**.ends

* expanding   symbol:  chip_top.sym # of pins=32
** sym_path: /foss/designs/ihp-sg13g2-ams-chip-template/schematic/xschem/chip_top.sym
** sch_path: /foss/designs/ihp-sg13g2-ams-chip-template/schematic/xschem/chip_top.sch
.subckt chip_top bidir_PAD[1] bidir_PAD[0] bidir_PAD[3] bidir_PAD[2] clk_PAD rst_n_PAD input_PAD[0] analog_PAD[3] analog_PAD[2]
+ analog_PAD[1] analog_PAD[0] output_PAD[0] output_PAD[1] output_PAD[2] output_PAD[3] VSS IOVDD VDD output_PAD[16] output_PAD[4] output_PAD[5]
+ output_PAD[6] output_PAD[7] output_PAD[8] output_PAD[9] output_PAD[10] output_PAD[11] output_PAD[12] output_PAD[13] output_PAD[14]
+ output_PAD[15]
*.ipin clk_PAD
*.ipin rst_n_PAD
*.ipin input_PAD[0]
*.opin output_PAD[16]
*.iopin analog_PAD[2]
*.iopin analog_PAD[0]
*.iopin IOVDD
*.iopin VSS
*.iopin VDD
*.iopin VSS
*.iopin bidir_PAD[0]
*.opin output_PAD[4]
*.opin output_PAD[5]
*.opin output_PAD[6]
*.opin output_PAD[7]
*.opin output_PAD[8]
*.opin output_PAD[9]
*.opin output_PAD[10]
*.opin output_PAD[11]
*.iopin analog_PAD[3]
*.iopin analog_PAD[1]
*.opin output_PAD[12]
*.opin output_PAD[13]
*.opin output_PAD[14]
*.opin output_PAD[15]
*.opin output_PAD[3]
*.opin output_PAD[2]
*.opin output_PAD[1]
*.opin output_PAD[0]
*.iopin bidir_PAD[1]
*.iopin bidir_PAD[2]
*.iopin bidir_PAD[3]
x1 VSS VDD VSS IOVDD net5 clk_PAD sg13g2_IOPadIn
x2 VSS VDD VSS IOVDD net3 rst_n_PAD sg13g2_IOPadIn
x3 VSS VDD VSS IOVDD net4 input_PAD[0] sg13g2_IOPadIn
x4 VSS VDD VSS IOVDD net16 output_PAD[16] sg13g2_IOPadOut30mA
x7 VSS VDD VSS IOVDD sg13g2_IOPadIOVdd
x8 VSS VDD VSS IOVDD sg13g2_IOPadIOVss
x9 VSS VDD VSS IOVDD sg13g2_IOPadVdd
x10 VSS VDD VSS IOVDD sg13g2_IOPadVss
x29 VSS VDD VSS IOVDD analog_PAD[0] net14 sg13g2_IOPadAnalog
x35 VSS VDD VSS IOVDD analog_PAD[2] net1 sg13g2_IOPadAnalog
x11 VSS VDD VSS IOVDD net6 counter1_value4 net4 bidir_PAD[0] sg13g2_IOPadInOut30mA
* noconn analog_PAD[0]
XR1 VSS sub! ptap1 R=262.8473 w=0.78e-6 l=0.78e-6
x5 VSS VDD VSS IOVDD counter2_value0 output_PAD[4] sg13g2_IOPadOut30mA
x6 VSS VDD VSS IOVDD counter2_value1 output_PAD[5] sg13g2_IOPadOut30mA
x12 VSS VDD VSS IOVDD counter2_value2 output_PAD[6] sg13g2_IOPadOut30mA
x13 VSS VDD VSS IOVDD counter2_value3 output_PAD[7] sg13g2_IOPadOut30mA
x14 VSS VDD VSS IOVDD counter2_value4 output_PAD[8] sg13g2_IOPadOut30mA
x15 VSS VDD VSS IOVDD counter2_value5 output_PAD[9] sg13g2_IOPadOut30mA
x16 VSS VDD VSS IOVDD counter2_value6 output_PAD[10] sg13g2_IOPadOut30mA
x17 VSS VDD VSS IOVDD counter2_value7 output_PAD[11] sg13g2_IOPadOut30mA
x18 VSS VDD VSS IOVDD analog_PAD[1] net15 sg13g2_IOPadAnalog
x19 VSS VDD VSS IOVDD analog_PAD[3] net2 sg13g2_IOPadAnalog
* noconn analog_PAD[1]
x20 VSS VDD VSS IOVDD net13 output_PAD[12] sg13g2_IOPadOut30mA
x21 VSS VDD VSS IOVDD net12 output_PAD[13] sg13g2_IOPadOut30mA
x22 VSS VDD VSS IOVDD net11 output_PAD[14] sg13g2_IOPadOut30mA
x23 VSS VDD VSS IOVDD net10 output_PAD[15] sg13g2_IOPadOut30mA
x24 VSS VDD VSS IOVDD counter1_value3 output_PAD[3] sg13g2_IOPadOut30mA
x25 VSS VDD VSS IOVDD counter1_value2 output_PAD[2] sg13g2_IOPadOut30mA
x26 VSS VDD VSS IOVDD counter1_value1 output_PAD[1] sg13g2_IOPadOut30mA
x27 VSS VDD VSS IOVDD counter1_value0 output_PAD[0] sg13g2_IOPadOut30mA
x28 VSS VDD VSS IOVDD net7 counter1_value5 net4 bidir_PAD[1] sg13g2_IOPadInOut30mA
x30 VSS VDD VSS IOVDD net8 counter1_value6 net4 bidir_PAD[2] sg13g2_IOPadInOut30mA
x31 VSS VDD VSS IOVDD net9 counter1_value7 net4 bidir_PAD[3] sg13g2_IOPadInOut30mA
* noconn #net1
* noconn #net2
x32 VDD VSS net5 net3 net4 counter1_value0 counter1_value1 counter1_value2 counter1_value3 counter1_value4 counter1_value5
+ counter1_value6 counter1_value7 counter_top
x33 VDD VSS net5 net3 net4 counter2_value0 counter2_value1 counter2_value2 counter2_value3 counter2_value4 counter2_value5
+ counter2_value6 counter2_value7 counter_top
x34 VDD net9 net10 VSS net8 net11 net7 net12 net13 net6 inverter_top
x36 VDD VSS VSS VSS VSS VSS net15 analog_PAD[3] analog_PAD[2] net14 inverter_top
* tap: counter1_value[0..7] --> counter1_value0
* tap: counter1_value[0..7] --> counter1_value1
* tap: counter1_value[0..7] --> counter1_value2
* tap: counter1_value[0..7] --> counter1_value3
* tap: counter1_value[0..7] --> counter1_value4
* tap: counter1_value[0..7] --> counter1_value5
* tap: counter1_value[0..7] --> counter1_value6
* tap: counter1_value[0..7] --> counter1_value7
* tap: counter2_value[0..7] --> counter2_value0
* tap: counter2_value[0..7] --> counter2_value1
* tap: counter2_value[0..7] --> counter2_value2
* tap: counter2_value[0..7] --> counter2_value3
* tap: counter2_value[0..7] --> counter2_value4
* tap: counter2_value[0..7] --> counter2_value5
* tap: counter2_value[0..7] --> counter2_value6
* tap: counter2_value[0..7] --> counter2_value7
R36 net16 VSS 100k
.ends


* expanding   symbol:  inverter_top.sym # of pins=10
** sym_path: /foss/designs/ihp-sg13g2-ams-chip-template/macros/inverter/schematic/xschem/inverter_top.sym
** sch_path: /foss/designs/ihp-sg13g2-ams-chip-template/macros/inverter/schematic/xschem/inverter_top.sch
.subckt inverter_top VDD vin4 vout4 VSS vin3 vout3 vin2 vout2 vout1 vin1
*.ipin vin4
*.iopin VDD
*.iopin VSS
*.iopin vout4
*.ipin vin3
*.ipin vin2
*.ipin vin1
*.iopin vout3
*.iopin vout2
*.iopin vout1
x1 nwell1 psub VDD vin1 vout1 VSS inverter
x2 nwell1 psub VDD vin2 vout2 VSS inverter
x3 nwell2 psub VDD vin3 vout3 VSS inverter
x4 nwell2 psub VDD vin4 vout4 VSS inverter
.ends


* expanding   symbol:  inverter.sym # of pins=6
** sym_path: /foss/designs/ihp-sg13g2-ams-chip-template/macros/inverter/schematic/xschem/inverter.sym
** sch_path: /foss/designs/ihp-sg13g2-ams-chip-template/macros/inverter/schematic/xschem/inverter.sch
.subckt inverter nwell psub VDD vin vout VSS
*.ipin vin
*.iopin VDD
*.iopin VSS
*.iopin vout
*.iopin nwell
*.iopin psub
XMdummy1 VSS VSS VSS psub sg13_lv_nmos w=2.0u l=1.0u ng=2
XMdummy2 VDD VDD VDD nwell sg13_lv_pmos w=12.0u l=1.0u ng=2
XM1 vout vin VSS psub sg13_lv_nmos w=20.0u l=1.0u ng=20
XM2 vout vin VDD nwell sg13_lv_pmos w=120.0u l=1.0u ng=20
XR1 VDD nwell ntap1 R=2.842 w=32.68e-6 l=8.02e-6
XR2 VSS psub ptap1 R=3.214 w=32.68e-6 l=3.38e-6
.ends

.GLOBAL GND
.GLOBAL VDD
.end
